US06399643B1
l) (S)-3-Benzyloxycarbonylamino-3-phenylpropionitrile
60.5 g of (R)-2-benzyloxycarbonylamino-2-phenylethyl 4-methylphenylsulfonate (142.2 mmol) were dissolved in 675 ml of DMF. 13.9 g of potassium cyanide (213.3 mmol), 5.64 g of 18-crown-6 (21.33 mmol) and 520 mg of potassium iodide (3.13 mmol) were added and the mixture was stirred at 50° C. for 20 hours. The reaction solution was poured into 500 ml of ice water and then stirred at 0° C. for 5 hours. The precipitate was filtered off with suction and dissolved in ethyl acetate. The organic phase was washed three times with water, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether, filtered off with suction, washed with diethyl ether and dried over phosphorus pentoxide. Yield: 25.3 g (63.5%).

reactant | (R)-2-benzyloxycarbonylamino-2-phenylethyl 4-methylphenylsulfonate | 142.2 mmol, 60.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C23H23NO5S
reactant | potassium cyanide | 213.3 mmol, 13.9 g | [C-]#N.[K+]
reactant | 18-crown-6 | 21.33 mmol, 5.64 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium iodide | 3.13 mmol, 520 mg | [I-].[K+]
solvent | DMF | 675 ml | CN(C)C=O | C3H7NO
product | (S)-3-Benzyloxycarbonylamino-3-phenylpropionitrile | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC#N)C1=CC=CC=C1 | C17H16N2O2
